US04879382
To 15 ml of a 3M solution of phenyl magnesium bromide in ether diluted with 15 ml of tetrahydrofuran was added a solution of 4.45 g of 5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine in 75 ml of tetrahydrofuran. After stirring at ambient temperature for 45 minutes, the reaction mixture was quenched into an iced ammonium chloride solution. The aqueous layer was extracted with ethyl acetate (2×), and the combined organics were washed with water followed by a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated. The resultant solid was purified via flash chromatography (compound preadsorbed on silica; elution with diethyl ether) and recrystallized from toluene to yield 4.0 g (64%) of 10,11-dihydro-5-methyl-10-phenyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine, mp 200°-203° C.

reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 4.45 g | CN1N2C(C=NC3=C1C=CN=C3)=CC=C2 | C11H10N4
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 10,11-dihydro-5-methyl-10-phenyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 4.0 g, 64% | CN1N2C(C(NC3=C1C=CN=C3)C3=CC=CC=C3)=CC=C2 | C17H16N4
